### PR TITLE
[Merged by Bors] - feat: add some regularity results for multivariable polynomials

### PR DESCRIPTION
**Pull request by ocfnash**
The goal (which is achieved) is to make things like this work:
```lean
example {s : Finset σ} {n : σ} {k : ℕ} {p : MvPolynomial σ R} :
    p * (∏ n in s, X n) * X n ^ k = 0 ↔ p = 0 := by
  simp
```

---

We may (or may not) wish to rename the file `Algebra.Regular.Pow`.

Intended to help with #6139

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Regular/Pow.lean [hunk 1]
```diff
@@ -64,3 +65,34 @@ theorem IsRegular.pow_iff {n : ℕ} (n0 : 0 < n) : IsRegular (a ^ n) ↔ IsRegul
 #align is_regular.pow_iff IsRegular.pow_iff
 
 end Monoid
+
+section CommMonoid
+
+open BigOperators
+
+variable {ι R : Type*} [CommMonoid R] [Nontrivial R] {s : Finset ι} {f : ι → R}
```
Comment (alexjbest) [inline Mathlib/Algebra/Regular/Pow.lean:73]:
```suggestion
variable {ι R : Type*} [CommMonoid R] {s : Finset ι} {f : ι → R}
```

File: Mathlib/Algebra/Regular/Pow.lean [hunk 2]
```diff
@@ -64,3 +65,34 @@ theorem IsRegular.pow_iff {n : ℕ} (n0 : 0 < n) : IsRegular (a ^ n) ↔ IsRegul
...
+
+lemma IsLeftRegular.prod (h : ∀ i ∈ s, IsLeftRegular (f i)) :
+    IsLeftRegular (∏ i in s, f i) := by
```
Comment (urkud) [inline Mathlib/Algebra/Regular/Pow.lean:76]: Will https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Basic.html#Finset.prod_induction help here?

File: Mathlib/Algebra/Regular/Pow.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Regular/Pow.lean:73]: Good catch, thanks!

File: Mathlib/Algebra/Regular/Pow.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Regular/Pow.lean:76]: Neat!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
